US07989469B2
6-Chloro-1-(pentan-3-yl)-7-phenyl-1H-imidazo[4,5-b]pyridin-2-ol.
6-Chloro-7-iodo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol (190 mg, 0.52 mmol), phenylboronic acid (76 mg, 0.63 mmol), and (DPPF)PdCl2 (38 mg, 0.052 mmol) were added to a microwave vial equipped with stirbar. A septum was affixed to the vial and the vessel was purged with nitrogen for 5 min. Degassed dioxane (5 mL), and degassed 2 M K2CO3 (aq.) (1 mL, 2 mmol) were added by syringe, and the septum was replaced with a crimped vial cap. The reaction was heated to 135° C. for 20 min. The reaction mixture was diluted with EtOAc and water, and the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. Purification by preparative LCMS provided the title compound as a white solid (60 mg). The compound was characterized by LCMS (m/z=316.1 [M+H]+) and 1H NMR.

reactant | 6-Chloro-7-iodo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol | 0.52 mmol, 190 mg | ClC=1C(=C2C(=NC1)N=C(N2C(CC)CC)O)I | C11H13ClIN3O
reactant | phenylboronic acid | 0.63 mmol, 76 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | K2CO3 | 2 mmol, 2 M, 1 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-Chloro-1-(pentan-3-yl)-7-phenyl-1H-imidazo[4,5-b]pyridin-2-ol | 60 mg | ClC=1C(=C2C(=NC1)N=C(N2C(CC)CC)O)C2=CC=CC=C2 | C17H18ClN3O
